US07618961B2
Ethyl 2-(2-(((4-methylphenyl)sulfonyl)amino)-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-methylbenzenesulfonyl chloride according to METHOD A, giving 0.36 g (66%) of a pink solid; mp 173° C.; MS (Ionspray, [M+H]+) m/z 341.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | Ethyl 2-(2-(((4-methylphenyl)sulfonyl)amino)-1,3-thiazol-4-yl)acetate | CC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H16N2O4S2
